US09279082B2
6,8-Bis-(4-hydroxy-butyl)-3-(4-methoxy-phenyl)-chromen-2-one (14.3 g, 36.0 mmol) is dissolved in 270 ml dichloromethane and a solution of boron tribromide (12 ml, 126 mmol) in 30 ml dichloromethane is added under ice-cooling. The cooling is removed and the reaction mixture is stirred overnight at room temp. The solution is poured onto ice/water, acidified with 2 N hydrochloric acid, and extracted three times with ethyl acetate. The combined organic layers are washed with water and dried over sodium sulfate. The solvent is removed in vacuo and the residue is filtered through silica gel with toluene/THF (7:3). 6,8-Bis-(4-hydroxy-butyl)-3-(4-hydroxy-phenyl)-chromen-2-one is obtained as a viscous oil.

reactant | 6,8-Bis-(4-hydroxy-butyl)-3-(4-methoxy-phenyl)-chromen-2-one | 36.0 mmol, 14.3 g | OCCCCC=1C=C2C=C(C(OC2=C(C1)CCCCO)=O)C1=CC=C(C=C1)OC | C24H28O5
reactant | boron tribromide | 126 mmol, 12 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 270 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 6,8-Bis-(4-hydroxy-butyl)-3-(4-hydroxy-phenyl)-chromen-2-one | OCCCCC=1C=C2C=C(C(OC2=C(C1)CCCCO)=O)C1=CC=C(C=C1)O | C23H26O5
